US05908945
28.5 ml (33 mmol) of trimethylaluminum as 10% solution in toluene is instilled in 4.56 g (30 mmol) of 2-isopropylidene-5-methyl-cyclohexan-1-one (pulegone) and 214.5 mg (1.5 mmol) of CuBr in 30 ml of ethyl acetate. The reaction solution is stirred for 1 more hour at 25° C. For hydrolysis, 2 ml of water is carefully added and stirred for 15 more minutes. The inorganic solid is suctioned off, rewashed with ethyl acetate and the solution is concentrated by evaporation in a vacuum. Distillation of the crude product at 120° C./6 torr yields 3.4 g of 2-tert-butyl-5-methyl-cyclohexanone (70% of theory) as a mixture of isomers.

reactant | trimethylaluminum | 33 mmol, 28.5 ml | C[Al](C)C
reactant | 2-isopropylidene-5-methyl-cyclohexan-1-one | 30 mmol, 4.56 g | C(C)(C)=C1C(CC(CC1)C)=O | C10H16O
reactant | water | 2 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2-tert-butyl-5-methyl-cyclohexanone | 3.4 g, 70% | C(C)(C)(C)C1C(CC(CC1)C)=O | C11H20O
